US05518994
In 250 ml of methanol was dissolved 13.1 g of metal sodium. To the resulting methanol solution were added 25 g (0.28 mol) of N-methylthiourea and 38.5 g (0.29 mol) of dimethyl malonate, and the mixture was reacted under reflux for 3 hours. Thereafter, to the solution was added dropwise 41.3 g (0.29 mol) of methyl iodide at 10° C. or lower, and the mixture was reacted at room temperature overnight. After completion of the reaction, methanol was removed under reduced pressure, and then the residue was dissolved in water. The resulting aqueous solution was made acidic with hydrochloric acid, and crystals precipitated were filtered, washed with water and dried to obtain 42.4 g (yield: 89%) of 6-hydroxy-3-methyl-2-methylthio-4(3H)-pyrimidinone.

reactant | sodium | [Na] | Na
reactant | N-methylthiourea | 0.28 mol, 25 g | CNC(=S)N | C2H6N2S
reactant | dimethyl malonate | 0.29 mol, 38.5 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | methyl iodide | 0.29 mol, 41.3 g | CI | CH3I
solvent | methanol | 250 ml | CO | CH4O
product | 6-hydroxy-3-methyl-2-methylthio-4(3H)-pyrimidinone | 42.4 g, yield: 89% | OC1=CC(N(C(=N1)SC)C)=O | C6H8N2O2S
